US04797409
37: 1-Hydroxy-4-methyl-6-[4-(4-chlorophenoxy)phenoxymethyl]-2-pyridone
171.4 g (0.5 mole) of 4-methyl-6-[4-(4-chlorophenoxy)phenoxymethyl]-2-pyrone in 50 ml of toluene were heated to 80° C. Then 59.9 g (0.36 mole) of hydroxylammonium sulfate and 38.3 g (0.36 mole) of sodium carbonate were added. 10 minutes later a further 59.9 g (0.36 mole) of hydroxylammonium sulfate and 38.3 g (0.36 mole) of sodium carbonate were added. After about 4 hours the heating was removed and, at about 40° C., 500 ml of methylene chloride were added. The dissolved reaction product was then filtered off from the insoluble salts. The filtrate was then dried over sodium sulfate, and the methylene chloride was evaporated off. When the residue was stirred with 500 ml of ethyl acetate, the reaction product crystallized out. For final purification, the 1-hydroxy-4-methyl-6-[4-(4-chlorophenoxy)phenoxymethyl]-2-pyridone was recrystallized from dimethylformamide. Yield 80.5 g (45%); melting point 168°-170° C.

reactant | 4-methyl-6-[4-(4-chlorophenoxy)phenoxymethyl]-2-pyrone | 0.5 mole, 171.4 g | CC1=CC(OC(=C1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C19H15ClO4
reactant | hydroxylammonium sulfate | 0.36 mole, 59.9 g | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | sodium carbonate | 0.36 mole, 38.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylammonium sulfate | 0.36 mole, 59.9 g | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | sodium carbonate | 0.36 mole, 38.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Hydroxy-4-methyl-6-[4-(4-chlorophenoxy)phenoxymethyl]-2-pyridone | ON1C(C=C(C=C1COC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C)=O | C19H16ClNO4
